US08071588B2
3-Bromo-2-fluorobenzoic acid
To a stirred solution of 2,2,6,6-tetramethylpiperidine (31.1 g, 0.22 mol) in THF (200 mL) was added dropwise a solution of butyl lithium (0.22 mol) in hexane (146.7 mL) at −10° C. The mixture was stirred for 1.5 h at −10° C. and the fluoroarene (1-bromo-2-fluorobenzene) in THF (100 mL) was consecutively added to the solution at −75° C. The mixture was stirred for 2 h at −75° C., before being poured on excess of CO2 gas. Then the reaction mixture was warmed to room temperature and stirred over night. After evaporation of the solvent, the residue was dissolved in water (150 mL), washed with diethyl ether (2×50 mL), acidified (to pH 1) and the solid was filtered off and dried under vacuum to give 24.3 g of the title compound as a white solid (yield: 55%).

reactant | 2,2,6,6-tetramethylpiperidine | 0.22 mol, 31.1 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | butyl lithium | 0.22 mol | C(CCC)[Li]
reactant | 1-bromo-2-fluorobenzene | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | CO2 | C(=O)=O | CO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | hexane | 146.7 mL | CCCCCC | C6H14
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-Bromo-2-fluorobenzoic acid | 24.3 g, yield: 55% | BrC=1C(=C(C(=O)O)C=CC1)F | C7H4BrFO2
